US09034895B2
(4-methylnaphthalen-1-yl)(6,7,8,9-tetrahydropyrido[1,2-a]indol-10-yl)methanone (CBX005)
To a solution of 4-methyl-1-naphthoyl chloride (37 mg, 0.18 mmol) and 6,7,8,9-tetrahydropyrido[1,2-a]indole (30 mg, 0.18 mmol) in 1 mL CH2Cl2 at −70° C. was added dropwise ethyl aluminum dichloride (0.22 mL, 0.40 mmol, 1.8 M in toluene). The reaction mixture was allowed to slowly warm to room temperature and stirred for 3 d then cooled to −70° C. and 4-methyl-1-naphthoyl chloride (4 mg, 0.020 mmol) and ethyl aluminum dichloride (20 μL, 0.036 mmol) added and allowed to warm to room temperature and stirred 6 h. The reaction mixture was again cooled to −70° C. and 4-methyl-1-naphthoyl chloride (4 mg, 0.020 mmol) and ethyl aluminum dichloride (20 μL, 0.036 mmol) added and allowed to warm to room temperature overnight. It was again cooled to −70° C. and 4-methyl-1-naphthoyl chloride (8 mg, 0.040 mmol), ethyl aluminum dichloride (40 μL, 0.072 mmol), and 1 mL CH2Cl2 added and allowed to warm to room temperature overnight. The reaction mixture was then partitioned between ethyl acetate and cold H2O, and the aqueous layer extracted twice with ethyl acetate. The combined organic extract was washed successively with H2O, 10% K2CO3, and brine, dried over MgSO4, filtered, and concentrated in vacuo. The crude product was purified via silica gel chromatography using a gradient from 0 to 25% ethyl acetate in hexanes to give CBX005 (22 mg, 0.065 mmol). 1H NMR (500 MHz, CDCl3, δ): 1.80-1.95 (m, 2H), 2.05-2.33 (m, 2H), 2.82 (s, 3H), 2.97 (t, J=6.3 Hz, 2H), 4.13 (t, J=6.2 Hz, 2H), 7.09 (t, J=7.6 Hz, 1H), 7.22 (t, J=7.6 Hz, 1H), 7.30-7.37 (m, 2H), 7.40 (d, J=7.1 Hz, 1H), 7.43-7.52 (m, 2H), 7.58 (t, J=7.6 Hz, 1H), 8.08-8.19 (m, 2H). 13C NMR (500 MHz, CDCl3, δ): 19.87, 20.03, 22.31, 25.20, 42.65, 108.94, 113.75, 121.25, 122.03, 122.44, 124.31, 124.99, 125.93, 126.05, 126.24, 126.41, 126.97, 130.34, 132.89, 136.27, 139.26, 147.09, 193.08. MS m/z 340.4 [M+H]+.

reactant | 4-methyl-1-naphthoyl chloride | 0.18 mmol, 37 mg | CC1=CC=C(C2=CC=CC=C12)C(=O)Cl | C12H9ClO
reactant | 6,7,8,9-tetrahydropyrido[1,2-a]indole | 0.18 mmol, 30 mg | C1=C2C=C3N(C2=CC=C1)CCCC3 | C12H13N
reactant | ethyl aluminum dichloride | 0.40 mmol, 1.8 M, 0.22 mL | [Cl-].[Cl-].C(C)[Al+2]
reactant | 4-methyl-1-naphthoyl chloride | 0.020 mmol, 4 mg | CC1=CC=C(C2=CC=CC=C12)C(=O)Cl | C12H9ClO
reactant | ethyl aluminum dichloride | 0.036 mmol, 20 μL | [Cl-].[Cl-].C(C)[Al+2]
reactant | 4-methyl-1-naphthoyl chloride | 0.020 mmol, 4 mg | CC1=CC=C(C2=CC=CC=C12)C(=O)Cl | C12H9ClO
reactant | ethyl aluminum dichloride | 0.036 mmol, 20 μL | [Cl-].[Cl-].C(C)[Al+2]
reactant | 4-methyl-1-naphthoyl chloride | 0.040 mmol, 8 mg | CC1=CC=C(C2=CC=CC=C12)C(=O)Cl | C12H9ClO
reactant | ethyl aluminum dichloride | 0.072 mmol, 40 μL | [Cl-].[Cl-].C(C)[Al+2]
solvent | CH2Cl2 | 1 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 1 mL | C(Cl)Cl | CH2Cl2
product | (4-methylnaphthalen-1-yl)(6,7,8,9-tetrahydropyrido[1,2-a]indol-10-yl)methanone | CC1=CC=C(C2=CC=CC=C12)C(=O)C1=C2N(C3=CC=CC=C13)CCCC2 | C24H21NO
